US05519016
In 30 ml of methanol was dissolved 3.13 g (0.015 mole) of 1-(3-nitro-2-pyridyl)piperazine, and 2 g of 5% palladium carbon was added thereto. While stirring the mixture at room temperature, hydrogen gas was passed through for one hour. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to obtain 2.56 g of 1-(3-amino-2-pyridyl)piperazine as pale yellow liquid.

reactant | 1-(3-nitro-2-pyridyl)piperazine | 0.015 mole, 3.13 g | [N+](=O)([O-])C=1C(=NC=CC1)N1CCNCC1 | C9H12N4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium carbon | 2 g | [C].[Pd]
product | 1-(3-amino-2-pyridyl)piperazine | 2.56 g | NC=1C(=NC=CC1)N1CCNCC1 | C9H14N4
